US07091211B2
Step A: tert-Butyl 4-acetyl-4-methoxypiperidine-1-carboxylate
To a solution of 1-tert-butyl 4-methoxycarbonyl-4-methoxypiperidine-1-carboxylate (2.5 g, 9.05 mmol) dissolved in 100 mL of tetrahydrofuran at −78° C. was added trimethylsilylmethyl lithium (23 mL, 23 mmol). After 30 min additional trimethylsilylmethyl lithium (2.7 mL, 2.7 mmol) was added. The reaction mixture was then diluted with diethyl ether, poured into saturated ammonium chloride, and extracted three times with diethyl ether. The organic layers were combined, washed with saturated sodium chloride, dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography eluting with 10% ethyl acetate/hexanes to afford 1.7 g of silyl product which was taken up in tetrahydrofuran (50 mL) and tetrabutylammonium fluoride (6.1 mL, 6.1 mmol) was added. After 30 min at room temperature, the reaction mixture was diluted with ethyl acetate, poured into water, and extracted three times with ethyl acetate. The organic layers were combined, washed with sodium chloride solution, dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography to afford the title compound (0.863 g).

reactant | 1-tert-butyl 4-methoxycarbonyl-4-methoxypiperidine-1-carboxylate | 9.05 mmol, 2.5 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)OC | C13H23NO5
reactant | trimethylsilylmethyl lithium | 23 mmol, 23 mL | C[Si](C)(C)C[Li]
reactant | trimethylsilylmethyl lithium | 2.7 mmol, 2.7 mL | C[Si](C)(C)C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrabutylammonium fluoride | 6.1 mmol, 6.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-Butyl 4-acetyl-4-methoxypiperidine-1-carboxylate | 0.863 g | C(C)(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)OC | C13H23NO4
